US06002008
4-(3-Chloro-propoxy)-5-methoxy -benzoic acid methyl ester
A mixture of 102.4 g (411.7 mmol) of 3-chloropropyl p-toluene sulfonate, 75 g (411.7 mmol) of 4-hydroxy-5-methoxy -benzoic acid methyl ester, 75.7 g (547.5 mmol) of potassium carbonate, and 1.66 g (4.1 mmol) of methyl-tricapryl ammonium chloride in 900 ml of acetone was stirred rapidly at reflux for 18 hr. The mixture was filtered and the solvent was removed giving 106 g of the tile compound after recrystallization from a chloroform-hexane mixture.

reactant | 3-chloropropyl p-toluene sulfonate | 411.7 mmol, 102.4 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCCl)C | C10H13ClO3S
reactant | 4-hydroxy-5-methoxy -benzoic acid methyl ester | 411.7 mmol, 75 g | COC(C1=CC=C(C(=C1)OC)O)=O | C9H10O4
reactant | potassium carbonate | 547.5 mmol, 75.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 900 ml | CC(=O)C | C3H6O
product | 4-(3-Chloro-propoxy)-5-methoxy -benzoic acid methyl ester | 106 g | COC(C1=CC=C(C(=C1)OC)OCCCCl)=O | C12H15ClO4
